US07291635B2
90 mg (150 μmol) of the title D compound, 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoic acid 4-methanesulfonyl-benzyl ester are stirred in 4 mL of 1:1—TFA:CH2Cl2 for 50 min. The solvent is removed and the residue triturated with 4 mL of 1:1—MeCN:H2O. This mixture is filtered through a 0.2μ disk and the solvent is removed. The resulting material is purified by LC/MS and afforded 4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-benzoic acid 4-methanesulfonyl-benzyl ester: 1H-NMR (DMSO-d6) δ 3.22 (3H, s), 3.71 (2H, s), 4.27 (2H, s), 5.48 (2H, s), 7.54 (2H, d, J=8.1), 7.74 (2H, d, J=8.1), 7.96 (2H, d, J=8.5), 8.01 (2H, J=8.5); [M−1]−=437.

reactant | 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoic acid 4-methanesulfonyl-benzyl ester | CS(=O)(=O)C1=CC=C(COC(C2=CC=C(C=C2)CN2S(N(C(C2)=O)CC2=C(C=C(C=C2)OC)OC)(=O)=O)=O)C=C1 | C27H28N2O9S2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-benzoic acid 4-methanesulfonyl-benzyl ester | CS(=O)(=O)C1=CC=C(COC(C2=CC=C(C=C2)CN2S(NC(C2)=O)(=O)=O)=O)C=C1 | C18H18N2O7S2
